US09278940B2
To a solution of 2-amino-4,6-dimethoxybenzamide (0.40 g, 2.04 mmol) and 6-bromopyridine-2-carbaldehyde (0.379 g, 2.04 mmol) in N,N-dimethylacetamide (24 mL) was added NaHSO3 (0.544 g, 3.06 mmol) and p-toluenesulfonic acid monohydrate (0.078 g, 0.408 mmol) at rt. The reaction mixture was heated at 120° C. for 6 h. After that time the reaction was cooled to rt, concentrated under reduced pressure and diluted with water (10 mL). The precipitated solids were collected by filtration, washed with water and dried. The product was purified by flash column chromatography (silica gel, 95:5 dichloromethane/methanol) to give 2-(6-bromopyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.354 g, 48%) as a light yellow solid: 1H NMR (400 MHz, DMSO-d) δ 11.25 (br s, 1H), 8.36 (d, J=7.81 Hz, 1H), 7.87-8.04 (m, 2H), 6.81 (s, 1H), 6.62 (s, 1H), 3.91 (s, 3H), 3.87 (s, 3H); ESI MS m/z 362 [M+H]+.

reactant | 2-amino-4,6-dimethoxybenzamide | 2.04 mmol, 0.40 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 6-bromopyridine-2-carbaldehyde | 2.04 mmol, 0.379 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | NaHSO3 | 3.06 mmol, 0.544 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.408 mmol, 0.078 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 24 mL | CN(C(C)=O)C | C4H9NO
product | 2-(6-bromopyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.354 g, 48% | BrC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12BrN3O3
